US08980911B2
1H NMR (400 MHz, DMSO-d6): δ 12.00 (br. s., 1H), 10.75 (br. s., 1H), 8.84-8.93 (m, 1H), 8.13 (d, J=5.27 Hz, 1H), 8.06 (s, 2H), 7.94 (br. s., 1H), 3.45-3.51 (m, 4H), 3.29 (s, 3H), 2.19 (s, 3H). MS: 449.81 (M+), 451.78 (M+2). N-[3-(2,6-Dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-5-yl]cyclopropanecarboxamide was prepared using N-(1H-pyrrolo[2,3-c]pyridin-5-yl)cyclopropane carboxamide and 2,6-dichloro benzoyl chloride (Compound No. 18).

reactant | N-(1H-pyrrolo[2,3-c]pyridin-5-yl)cyclopropane carboxamide | N1C=CC=2C1=CN=C(C2)NC(=O)C2CC2 | C11H11N3O
reactant | 2,6-dichloro benzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
product | N-[3-(2,6-Dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-5-yl]cyclopropanecarboxamide | ClC1=C(C(=O)C2=CNC3=CN=C(C=C32)NC(=O)C3CC3)C(=CC=C1)Cl | C18H13Cl2N3O2
